US08242313B2
5,5,5-Trichloro-2-methoxy-4-oxopent-2-en-1-yl acetate
29.6 g (0.1 mol) of 5-bromo-1,1,1-trichloro-4-methoxypent-3-en-2-one, 17 g of potassium acetate, 5 g of tetrabutylammonium bromide and 8 g of acetic acid were stirred in 300 ml of acetonitrile at 40° C. for 16 h. The mixture was concentrated under reduced pressure, and water was added to the residue. The product was extracted with ethyl acetate, the organic phase was washed with water and the solvent was removed fully under reduced pressure.

reactant | 5-bromo-1,1,1-trichloro-4-methoxypent-3-en-2-one | 0.1 mol, 29.6 g | BrCC(=CC(C(Cl)(Cl)Cl)=O)OC | C6H6BrCl3O2
reactant | potassium acetate | 17 g | C(C)(=O)[O-].[K+]
reactant | acetic acid | 8 g | C(C)(=O)O | C2H4O2
catalyst | tetrabutylammonium bromide | 5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 5,5,5-Trichloro-2-methoxy-4-oxopent-2-en-1-yl acetate | C(C)(=O)OCC(=CC(C(Cl)(Cl)Cl)=O)OC | C8H9Cl3O4
